* C:\Users\ethan\Documents\GitHub\Big-Crete-Calculator\Hardware\V1 Prototype Boards\Simulations\CC led driver- best I could find.asc
R1 N007 0 33
V1 N005 0 5
V2 0 N013 5
V3 N010 0 3.3
Q1 N019 N021 N007 0 NPN
Q2 N016 N011 N008 0 PNP
D1 N016 N019 NSCW100
V4 N012 0 PULSE(0 3.3 0 0 0 0.005 0.01)
V5 N022 0 PULSE(5 0 0 0 0 0.005 0.01)
XU2 N010 N007 N005 N013 N008 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 N012 N011 10k
R3 N022 N021 10k
Q3 N017 N018 N020 0 NPN
Q4 N018 N020 0 0 NPN
R4 N001 N018 1000
R5 N020 0 3
V6 N001 0 3.6
M1 N009 N014 N017 N017 Si7336ADP
V7 N015 0 PULSE(5 0 0 0 0 0.005 0.01)
M2 N004 N002 N001 N001 AO6407
V8 N003 0 PULSE(0 5 0 0 0 0.005 0.01)
R9 N015 N014 10k
R10 N003 N002 10k
D4 N006 0 red_led
V9 N006 0 PULSE(0 3.791 0 0.05 0.05 0.005 0.01)
D2 N006 0 green_led
D5 N006 0 blue_led
D3 N004 N009 blue_led
Q5 N030 N031 N032 0 NPN
Q6 N031 N032 0 0 NPN
R6 N023 N031 1000
R7 N032 0 10
V10 N023 0 PULSE(3.6 4.2 0.005 0.09 0.1 0.005)
M3 N027 N028 N030 N030 Si7336ADP
V11 N029 0 5
M4 N026 N024 N023 N023 AO6407
V12 N025 0 0
R8 N029 N028 10k
R11 N025 N024 10k
D6 N026 N027 blue_led
.model D D
.lib C:\Users\ethan\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ethan\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ethan\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.1 0 0.01
.model red_led D(Is=0.0000606102 n=13.5699)
.model green_led D(Is=0.00000257692 n=13.9707)
.model blue_led D(Is=0.00000257692 n=13.9707)
* IV DIODE CHECKER
.TEMP 25
.lib UniversalOpAmp2.lib
.backanno
.end
